US04115096
A mixture of 2-cyclohexyl-3-hydroxy-5-methylpyrazole (16.5 g) and dimethyl sulfate (10.9 g) was heated with stirring at 150°-160° for 6 hours and then allowed to cool to room temperature. A solution of sodium carbonate (6.5 g) in water (100 ml) was added, and the reaction mixture was heated at reflux temperature for 2 hours, cooled, and extracted with chloroform. The layer was dried and concentrated to give a dark oil, which was dissolved in methylene chloride, treated with charcoal and diatomaceous earth, filtered and concentrated. The concentrate was fractionally distilled, and the portion distilling at 118°/0.020 mm Hg was further purified by column chromatography on silica gel. Elution with chloroform-ethyl acetate (7:3), chloroform-ethyl acetate gradients, ethyl acetate, and ethanol afforded product from the ethyl acetate-rich chloroform-ethyl acetate gradient fractions and the ethyl acetate and ethanol fractions as determined by thin-layer chromatography and nuclear magnetic resonance spectroscopy. Product-rich fractions which were shown by gas chromatography to be highly pure were combined and concentrated to give 2-cyclohexyl-1,5-dimethyl-1,2-dihydro-3H-pyrazol-3-one (3.0 g) as an oil. The assigned structure was confirmed by infrared and nuclear magnetic resonance spectral analysis.

reactant | 2-cyclohexyl-3-hydroxy-5-methylpyrazole | 16.5 g | C1(CCCCC1)N1N=C(C=C1O)C | C10H16N2O
reactant | dimethyl sulfate | 10.9 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium carbonate | 6.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | charcoal | C | CH4
solvent | water | 100 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-cyclohexyl-1,5-dimethyl-1,2-dihydro-3H-pyrazol-3-one | 3.0 g | C1(CCCCC1)N1N(C(=CC1=O)C)C | C11H18N2O
